Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
================
___ 04:44AM BLOOD WBC-11.2* RBC-4.53* Hgb-13.2* Hct-40.6 
MCV-90 MCH-29.1 MCHC-32.5 RDW-13.9 RDWSD-45.7 Plt ___
___ 04:44AM BLOOD Neuts-80.8* Lymphs-9.9* Monos-7.1 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-9.01* AbsLymp-1.10* 
AbsMono-0.79 AbsEos-0.03* AbsBaso-0.05
___ 04:44AM BLOOD Glucose-211* UreaN-18 Creat-0.9 Na-129* 
K-4.9 Cl-93* HCO3-21* AnGap-15
___ 04:44AM BLOOD ALT-13 AST-21 AlkPhos-66 TotBili-0.6
___ 04:44AM BLOOD Lipase-64*
___ 04:44AM BLOOD cTropnT-<0.01
___ 04:44AM BLOOD Albumin-4.3 Calcium-9.3 Phos-2.1* Mg-2.1
___ 04:44AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:58AM BLOOD Lactate-3.9*

PERTINENT INTERVAL LABS
===========================
___ 08:16AM BLOOD Lactate-3.4*
___ 04:04PM BLOOD Lactate-2.9*
___ 12:42AM BLOOD Lactate-1.2

DISCHARGE LABS
===================
___ 07:40AM BLOOD WBC-8.5 RBC-3.84* Hgb-11.2* Hct-33.9* 
MCV-88 MCH-29.2 MCHC-33.0 RDW-13.8 RDWSD-44.4 Plt ___
___ 07:40AM BLOOD Glucose-126* UreaN-12 Creat-0.9 Na-135 
K-4.5 Cl-98 HCO3-25 AnGap-12
___ 07:40AM BLOOD Calcium-8.1* Phos-3.1 Mg-2.0

IMAGING STUDIES
====================
+MRI head w/ and w/o contrast ___. Severely motion degraded postcontrast images.  No gross 
evidence for an 
enhancing intracranial mass. 
2. No evidence for an acute infarction or edema. 
3. Moderately extensive T2/FLAIR signal abnormalities in the 
supratentorial 
white matter are nonspecific but most likely sequela of chronic 
small vessel 
ischemic disease in this age group. 

+CT head w/o contrast ___. No evidence of acute intracranial process. 
2. Brain parenchymal atrophy, most conspicuous in the 
cerebellum. 
3. Probable sequelae of chronic small vessel ischemic disease 

+MRI L spine ___. Subacute L4 anterior superior endplate fracture with 
approximately 20% loss 
of height.  While there is no focal retropulsion of the 
posterior endplate, 
there is grade 1 anterolisthesis at L3-L4 and mild 
retrolisthesis at L4-L5.  
No evidence for an underlying mass. 
2. Status post left L4 and L5 laminectomies.  Granulation tissue 
in the 
laminectomy beds does not encroach on the thecal sac.  At L5-S1, 
traversing S1 
nerve roots are surrounded by the granulation tissue and also 
contacted by 
facet osteophytes, with greater mass effect on the left than 
right. 
3. Multilevel degenerative disease.  Mild spinal canal narrowing 
with mild 
intrathecal nerve root crowding (but no compression) from L1-L2 
through L3-L4. 
Contact of traversing and exiting nerve roots at multiple 
levels, as detailed 
above. 
4. No evidence for osseous or epidural metastatic disease.  No 
evidence for 
intrathecal metastatic disease allowing for motion artifact. 
PREVALENCE:  Prevalence of lumbar degenerative disk disease in 
subjects 
without low back pain: 
Overall evidence of disk degeneration 91% (decreased T2 signal, 
height loss, 
bulge) 
T2 signal loss 83% 
Disk height loss 58% 
Disk protrusion 32% 
Annular fissure 38% 
___, et all.  Spine ___ 26(10):___ 
Lumbar spinal stenosis prevalence- present in approximately 20% 
of 
asymptomatic adults over ___ years old 
___, et al, Spine Journal ___ 9 (7):___ 
  
These findings are so common in asymptomatic persons that they 
must be 
interpreted with caution and in context of the clinical 
situation. 

EEG ___
Official read pending at time of discharge, but preliminarily 
indicative of moderate diffuse encephalopathy, no epileptiform 
discharges seen and no seizures. 
 
Brief Hospital Course:
=======================
Transitional Issues:
=======================
[] started on Keppra 500mg BID for seizure prophylaxis for 
upcoming flight back to ___
[] recommend scheduling appointment with a Neurologist as soon 
as your return to ___
[] recommend scheduling appointment with primary care physician 
after discharge, obtain blood draw for sodium
[] Patient is on a combination blood pressure medication 
(HCTZ/valsartan), however presented with hyponatremia - 
discharged on valsartan alone
[] discharged on azithromycin for CAP, to be completed ___
[] EEG final read pending at time of discharge, but preliminary 
indicative of moderate diffuse encephalopathy, no epileptiform 
discharges seen and no seizures. 

ASSESSMENT AND PLAN: 
___ yo M with PMHx prostate cancer (on enzalutamide), HTN, CAD 
s/p 3v CABG, AVR, cognitive impairment and recent lumbar back 
surgery who presented with an episode of confusion and decreased 
responsiveness, found to have findings c/f pna, hypoNa. 
Presentation concerning for provoked seizure.
 
ACUTE ISSUES:  
=============
#c/f Seizure, provoked
#Confusion
Patient presented after an episode of decreased responsiveness 
associated with shaking of his extremities and clenching of his 
jaw. It is unclear if at that time he was able to follow 
commands, however patient does not remember the event and had 
confusion following the event, lactate elevated on admission, 
all concerning for possible seizure iso infection and 
hyponatremia. Has baseline cognitive decline which may have 
contributed to ongoing memory difficulty. CT head without acute 
process, however did show brain parenchymal atrophy, mostly in 
the cerebellum, as well as probable sequelae of chronic small 
vessel ischemic disease. MRI w/ and w/o contrast wnl, other than 
small vessel disease. EEG final read pending at time of 
discharge, but preliminary indicative of moderate diffuse 
encephalopathy, no epileptiform discharges seen and no seizures. 
Pt continued to have mild memory issues at time of discharge but 
was overall improved. Pt was discharged on Keppra 500mg BID for 
prophylaxis given upcoming flight back to ___, with 
instructions to make appointment with Neurologist as soon as he 
returns to ___.

#Community Acquired Pneumonia
Pt presented with confusion and episode of AMS now resolved. 
Reports 1 week history of mild cough and "tickling" in his 
throat, family members have been sick around him. Mild chest 
pain bilaterally that he cannot further describe. Also with 
generalized weakness. Flu swab negative. CXR on admission with
left lower lobe hazy opacity with parapneumonic effusion, 
concerning for PNA. Pt also with elevated lactate on admission, 
possibly ___ seizure, however improved with IVF back to wnl. Pt 
remained afebrile, hemodynamically stable, with stable O2 sats 
on room air. Patient was treated with antibiotics while 
inpatient, and discharged with azithromycin for remainder of 
5-day antibiotic course.

#Hyponatremia
Pt with Na 129 on admission. Per report, had decreased appetite 
however daughter states he has been eating balanced diet. Per 
patient, may have been taking in less fluids at home. C/f 
hypovolemic hyponatremia given elevated lactate and report of 
decreased PO intake. Low serum osm on admission 276. s/p 1L IVF
in ED. Received another 1L IVF yesterday with improvement in Na 
to 135. Patient was taking hydrochlorothiazide prior to 
admission, which was held during admission and discontinued, as 
may be contributing to hyponatremia.

___ weakness
#Lumbar spine disease/fracture s/p surgery
Likely related to underlying spinal pathology. Unclear if 
patient has mets to spine, or if issues arose after acute 
fracture. Per family friend, patient had lumbar surgery for a 
fracture several months ago. Since that time patient's back pain 
has improved and he has been more mobile. On exam, patient has 
___ weakness
bilaterally, right greater than left. No saddle anesthesia. 
Patient notes unsteadiness on his feet and balance issues, which 
may be related to underlying spinal disease. Given above and 
history of prostate cancer, MR ___ performed, which did not 
show evidence of compression or metastatic disease to the spine.

CHRONIC ISSUES:  
===============  
#CAD s/p CABG
Continued on home Crestor 10mg Daily, Aspirin 81mg Daily, 
Metoprolol 25mg daily (home frequency unknown).

#HTN
Continued Metoprolol tartrate 25mg (home frequency unknown). 
Home valsartan/HCTZ initially held as BPs soft. BPs then 
returned to normal/elevated, so Valsartan was restarted. HCTZ 
was held and discontinued on discharge as may have contributed 
to hyponatremia.

#Prostate Cancer, metastatic
Home Enzalutamide 160mg daily non-formulary, requested that 
patient bring from home.

#Depression
Home Brintellix 5mg daily non-formulary, requested that patient 
bring from home.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. enzalutamide 160 mg oral DAILY 
2. Rosuvastatin Calcium 10 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO DAILY 
5. vortioxetine 5 mg oral DAILY 
6. Acetaminophen 500 mg PO DAILY 
7. Diovan HCT (valsartan-hydrochlorothiazide) 80-12.5 mg oral 
DAILY 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 4 Doses  
2.  Valsartan 80 mg PO DAILY 
This medication will replace Co-Diovan  
3.  Acetaminophen 500 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  enzalutamide 160 mg oral DAILY  
6.  Metoprolol Tartrate 25 mg PO DAILY  
7.  Rosuvastatin Calcium 10 mg PO QPM  
8.  vortioxetine 5 mg oral DAILY 
Brintellix  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Seizure

Secondary Diagnosis: Community Acquired Pneumonia
                     Hyponatremia
                     Lower extremity weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Mr. ___,  

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had an episode of shaking and stiffness, followed by 
confusion. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- It was felt that you had a seizure, likely provoked in the 
setting of infection and low sodium levels.
- You were found to have pneumonia and were treated with 
antibiotics, to be continued for 3 more days once you leave the 
hospital
- You were found to have a low sodium level in the blood, which 
improved with IV fluids.
- You had imaging of your brain and spine which did not show any 
evidence of prostate cancer metastasis. Your brain imaging 
showed evidence of small vessel disease (normal signs of aging), 
which is likely contributing to some of your memory issues.  

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please continue to take all of your medications.
- Please see your doctor as soon as you get back to ___. 
- Please continue to stay hydrated and drink fluids throughout 
the day.

We wish you the best! 
 
Sincerely,  

Your ___ Team  
 
Followup Instructions:
___